US03943154
2-carbethoxyvinyl 3-amino-5-chlorophenyl sulfone is prepared by reacting sodium 3acetamido-5-chlorobenzenesulfinate in aqueous ethanol solution, in the presence of potassium acetate, with 2,3-dichloropropionamide. The resulting 2-carboxyamidovinyl 3-acetamido-5-chlorophenyl sulfone is hydrolyzed with dilute hydrochloric acid to give 2carboxyamidovinyl 3-amino-5-chlorophenyl sulfone. The dried solid is boiled with ethanol under reflux for 2 hours in the presence of concentrated sulfuric acid. After drowning in water and neutralization 2-carbethoxyvinyl 3-amino-5-chlorophenyl sulfone is obtained.

reactant | sodium 3acetamido-5-chlorobenzenesulfinate | C(C)(=O)NC=1C=C(C=C(C1)Cl)S(=O)[O-].[Na+]
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | 2,3-dichloropropionamide | ClC(C(=O)N)CCl | C3H5Cl2NO
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-carbethoxyvinyl 3-amino-5-chlorophenyl sulfone | NC=1C=C(C=C(C1)Cl)S(=O)(=O)C=CC(=O)OCC | C11H12ClNO4S
